US07214690B2
To a solution of (±)-7-(2,2-dimethylpropionamido)-3,4-dihydro-4-(2,2,2-trifluoroethyl)-3-(trifluoromethyl)-2H-1,4-benzoxazine (200 mg, 0.52 mmol) in 3 mL of dry diethyl ether at −30° C. was added t-butyllithium (1.7M/pentane, 0.80 mL, 1.35 mmol) was added dropwise over of 30 min and then stirred at −10° C. The deep yellow solution was allowed to stir at −10° C. for 5–6 hours and then recooled to −30° C. and trifluoroethyl acetate (0.186 mL, 1.56 mmol) was slowly added. The reaction was allowed to gradually warm to room temperature over the course of 12 hours. The reaction was quenched with saturated ammonium chloride (2 mL) and extracted with ethyl acetate (2×10 mL). The combined organic layers were washed with brine (5 mL), dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure to give a brown oil. The substrate was purified via flash chromatography (4:1 hexanes:EtOAc) to afford 40 mg (15%) of (±)-3,4-dihydro-8-(trifluoroacetyl)-4-(2,2,2-trifluoroethyl)-3-(trifluoromethyl)-7-(trimethylacetamido)-2H-1,4-benzoxazine. 1H NMR (400 MHz, CDCl3) d 8.92 (s, 1H), 7.81 (d, 1H), 7.06 (d, 1H), 4.68 (d, 1H, J=12), 4.22–4.38 (m, 1H), 4.05–4.12 (m, 1H), 3.93–4.20 (m, 1H), 3.78–3.91 (m, 1H), 1.28 (s, 9H).

reactant | (±)-7-(2,2-dimethylpropionamido)-3,4-dihydro-4-(2,2,2-trifluoroethyl)-3-(trifluoromethyl)-2H-1,4-benzoxazine | 0.52 mmol, 200 mg | CC(C(=O)NC1=CC2=C(N(C(CO2)C(F)(F)F)CC(F)(F)F)C=C1)(C)C | C16H18F6N2O2
reactant | t-butyllithium | 1.35 mmol, 1.7M, 0.80 mL | C(C)(C)(C)[Li]
reactant | trifluoroethyl acetate | 1.56 mmol, 0.186 mL | C(C)(=O)OCC(F)(F)F | C4H5F3O2
solvent | diethyl ether | 3 mL | C(C)OCC | C4H10O
product | (±)-3,4-dihydro-8-(trifluoroacetyl)-4-(2,2,2-trifluoroethyl)-3-(trifluoromethyl)-7-(trimethylacetamido)-2H-1,4-benzoxazine | 40 mg, 15% | FC(C(=O)C1=C(C=CC=2N(C(COC21)C(F)(F)F)CC(F)(F)F)NC(C(C)(C)C)=O)(F)F | C18H17F9N2O3
